US06362210B1
Trans-3-(2-oxo-2H-chromen-3-yl)-acrylic acid-N-(2-carboxy-phenyl)-amide
Prepared analogously to Example 31 from trans-3-(2-oxo-2H-chromen-3-yl)-acrylic acid chloride and anthranilic acid in tetrahydrofuran with the addition of triethylamine.

reactant | trans-3-(2-oxo-2H-chromen-3-yl)-acrylic acid chloride | O=C1OC2=CC=CC=C2C=C1/C=C/C(=O)Cl | C12H7ClO3
reactant | anthranilic acid | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Trans-3-(2-oxo-2H-chromen-3-yl)-acrylic acid-N-(2-carboxy-phenyl)-amide | C(=O)(O)C1=C(C=CC=C1)NC(\C=C\C=1C(OC2=CC=CC=C2C1)=O)=O | C19H13NO5
